US07858632B2
To a solution of 5-(2-isopropyl-4-methoxy-phenoxy)-pyrimidine-2,4-diamine (0.40 g, 1.44 mmol) in glacial acetic acid (4 ml) at room temperature was added a solution of iodine monochloride (0.28 g, 1.76 mmol) in glacial acetic acid (4 ml). Water (6 ml) was also added, and the reaction was stirred for 16 hours, after which another portion of iodine monochloride (0.4 g, 2.47 mmol) in glacial acetic acid (4 ml) was added. The reaction mixture was stirred for an additional hour at room temperature. The acidic mixture was basified with saturated NaHCO3 solution and extracted into dichloromethane. The organic layer was dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified via flash chromatography (5%CH3OH in CH2CL2 with 0.1% NH4OH) to give 5-(5-iodo-2-isopropyl-4-methoxy-phenoxy) -pyrimidine-2,4-diamine as beige colored solid (0.536 g, 92%). M+H 400.

reactant | 5-(2-isopropyl-4-methoxy-phenoxy)-pyrimidine-2,4-diamine | 1.44 mmol, 0.40 g | C(C)(C)C1=C(OC=2C(=NC(=NC2)N)N)C=CC(=C1)OC | C14H18N4O2
reactant | iodine monochloride | 1.76 mmol, 0.28 g | ICl | ClI
reactant | Water | 6 ml | O | H2O
reactant | iodine monochloride | 2.47 mmol, 0.4 g | ICl | ClI
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
product | 5-(5-iodo-2-isopropyl-4-methoxy-phenoxy) -pyrimidine-2,4-diamine | 0.536 g, 92% | IC=1C(=CC(=C(OC=2C(=NC(=NC2)N)N)C1)C(C)C)OC | C14H17IN4O2
